US05834463
(3aR*,10aS*)-9-(Benzyl-4-(phenethylaminoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one
Using (3aR*,10aS*)-9-benzyl-4-bromoacetyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopent[e][1,4]-diazepin-10(1H)-one and phenethylamine, the titled compound was synthesized in substantially the same manner as in Working Example 138 in a yield of 48%, m.p. 108°-109° C. (diethyl ether).

reactant | (3aR*,10aS*)-9-benzyl-4-bromoacetyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopent[e][1,4]-diazepin-10(1H)-one | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@@H](C1=O)CCC3)C(CBr)=O)C=CC=C2 | C21H21BrN2O2
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
solvent | diethyl ether | C(C)OCC | C4H10O
product | Benzyl-4-(phenethylaminoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one | yield of 48% | C(C1=CC=CC=C1)C1CCC2N(C3=C(NC(C21)=O)C=CC=C3)C(CNCCC3=CC=CC=C3)=O | C29H31N3O2
